US07307037B2
A suspension of PdCl2 (0.15 g) in 2,3-dibromothianaphthene (2.4 g) was brought to the temperature of 115° C., and P(OEt)3 (3.3 g) was then dropped under stirring and in an inert atmosphere. Once dropping was completed, the red solution was brought to 160° C. After 1 h 30 min, the mixture was diluted with CH2Cl2, washed twice with water and dehydrated. The solvent was evaporated at reduced pressure to yield a residue that underwent chromatography on silica gel by flash chromatography (AcOEt), to yield 2,3-bis(diethoxyphosphoryl)-benzo[b]thiophene (1.6 g) (yield 60%).

reactant | P(OEt)3 | 3.3 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | 2,3-dibromothianaphthene | 2.4 g | C1=CC=C2C(=C1)C(=C(S2)Br)Br | C8H4Br2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PdCl2 | 0.15 g | Cl[Pd]Cl
product | 2,3-bis(diethoxyphosphoryl)-benzo[b]thiophene | 1.6 g, yield 60% | C(C)OP(=O)(OCC)C1=C(C2=C(S1)C=CC=C2)P(=O)(OCC)OCC | C16H24O6P2S
